US06727264B1
N-[3-(1-{3-[5-METHOXY-2-(3-NITROPHENYL)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-(3-{1-[5-(3-nitrophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)propanamide and 4-methoxyphenylhydrazine hydrochloride: ESMS m/e: 555.2 (M+H)+.

reactant | 2-methyl-N-(3-{1-[5-(3-nitrophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C26H33N3O4
reactant | 4-methoxyphenylhydrazine hydrochloride | Cl.COC1=CC=C(C=C1)NN
product | N-[3-(1-{3-[5-METHOXY-2-(3-NITROPHENYL)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | COC=1C=C2C(=C(NC2=CC1)C1=CC(=CC=C1)[N+](=O)[O-])CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C33H38N4O4
